US07569700B2
b) tert-Butyl 5-[6-amino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-yl]hexahydropyrrolo-[3,4-c]pyrrole-2-carboxylate
A solution of 44 mg (0.10 mmol of tert-butyl 5-[1-(3-methylbut-2-enyl)-6-nitro-1H-benzimidazol-2-yl]hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate in 7.5 ml of ethanol was added dropwise to a suspension of 56 mg (1.00 mmol) of iron and 10 mg (0.18 mmol) of ammonium chloride in 0.75 ml of water, and the mixture was boiled at reflux for 3 hours. The catalyst was filtered off and washed with ethanol. The filtrate was concentrated under reduced pressure. The 35 mg of the desired product thus obtained were used in the next stage without further purification.

reactant | tert-butyl 5-[1-(3-methylbut-2-enyl)-6-nitro-1H-benzimidazol-2-yl]hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate | 0.10 mmol | CC(=CCN1C(=NC2=C1C=C(C=C2)[N+](=O)[O-])N2CC1C(C2)CN(C1)C(=O)OC(C)(C)C)C | C23H31N5O4
reactant | ammonium chloride | 0.18 mmol, 10 mg | [Cl-].[NH4+]
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | water | 0.75 ml | O | H2O
catalyst | iron | 1.00 mmol, 56 mg | [Fe] | Fe
product | tert-Butyl 5-[6-amino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-yl]hexahydropyrrolo-[3,4-c]pyrrole-2-carboxylate | 35 mg | NC=1C=CC2=C(N(C(=N2)N2CC3C(C2)CN(C3)C(=O)OC(C)(C)C)CC=C(C)C)C1 | C23H33N5O2
